US06727264B1
N-{3-[1-(3-{[(3,4-DIMETHOXYPHENYL)SULFONYL]AMINO}PROPYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE:
Prepared by Procedure Q1 (THF) and Scheme AT using N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide and 3,4-dimethoxybenzenesulfonyl chloride: ESMS m/e: 504.2 (M+H)+.

reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C18H29N3O
reactant | 3,4-dimethoxybenzenesulfonyl chloride | COC=1C=C(C=CC1OC)S(=O)(=O)Cl | C8H9ClO4S
solvent | THF | C1CCOC1 | C4H8O
product | N-{3-[1-(3-{[(3,4-DIMETHOXYPHENYL)SULFONYL]AMINO}PROPYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE | COC=1C=C(C=CC1OC)S(=O)(=O)NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C26H37N3O5S
